US07700778B2
Step F: Preparation of tert-butyl 4-{2-[(1S)-1-aminoethyl]-4-chlorophenyl}piperidine-1-carboxylate
A mixture of tert-butyl 4-{4-chloro-2-[(1S)-1-(azido)ethyl]phenyl}-3,6dihydropyridine-1-carboxylate (22.9 g, 63.1 mmol) and platinum (IV) oxide (1.08 g, 4.73 mmol) in ethanol/glacial acetic acid (1:1, 200 mL) was hydrogenated at atmospheric pressure for approximately 15 h. The resulting mixture was degassed via three vacuum/hydrogen ingress cycles to remove the liberated nitrogen and the hydrogenation was then continued for a further 24 h. The reaction mixture was filtered through a short column of celite®, the filtrate evaporated and the residue partitioned between methylene chloride and 1N sodium hydroxide. The organic phase was separated and the aqueous phase was re-extracted twice with methylene chloride. The combined organic extracts were washed with water, brine, dried (Na2SO4), and concentrated in vacuo to give crude (˜70% pure) title compound as a colorless foam.

reactant | tert-butyl 4-{4-chloro-2-[(1S)-1-(azido)ethyl]phenyl}-3,6dihydropyridine-1-carboxylate | 63.1 mmol, 22.9 g | ClC1=CC(=C(C=C1)C=1CCN(CC1)C(=O)OC(C)(C)C)[C@H](C)N=[N+]=[N-] | C18H23ClN4O2
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | platinum (IV) oxide | 4.73 mmol, 1.08 g | [Pt](=O)=O
product | tert-butyl 4-{2-[(1S)-1-aminoethyl]-4-chlorophenyl}piperidine-1-carboxylate | N[C@@H](C)C1=C(C=CC(=C1)Cl)C1CCN(CC1)C(=O)OC(C)(C)C | C18H27ClN2O2
